US07985858B2
Noroxymorphone (1.59 g, 5.5 mmol), potassium carbonate (0.61 g, 6.1 mmol), potassium iodide (0.46 g, 2.8 mmol), and dimethyl acetamide (10 mL) were added into a round bottom flask. Bromomethylcyclobutane (0.82 g, 5.5 mmol, 0.62 mL) was added. The reaction was stirred for 7 days at room temperature. At that time, bromomethylcyclobutane (0.82 g, 5.5 mmol, 0.62 mL) was added. The reaction was stirred for an additional 7 days. HPLC analysis indicated that the noroxymorphone was consumed. Distilled water (50 mL) was added and stirred at room temperature for 6 hours. An off-white precipitate formed, which was removed by filtration. The solid was washed with distilled water (25 mL), then slurried for 24 hours in acetonitrile (25 mL). Filtration, washing the solid with acetonitrile (10 mL), and drying at room temperature under vacuum for 24 hours yielded N-(cyclobutylmethyl)-noroxymorphone (1.43 g, 73% yield) as a tan solid.

reactant | Noroxymorphone | 5.5 mmol, 1.59 g | CN1CC[C@]23[C@@H]4C(=O)C=C[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)O | C17H17NO4
reactant | potassium carbonate | 6.1 mmol, 0.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.8 mmol, 0.46 g | [I-].[K+]
reactant | Bromomethylcyclobutane | 5.5 mmol, 0.62 mL, 0.82 g | BrCC1CCC1 | C5H9Br
reactant | bromomethylcyclobutane | 5.5 mmol, 0.62 mL, 0.82 g | BrCC1CCC1 | C5H9Br
solvent | dimethyl acetamide | 10 mL | CC(=O)N(C)C | C4H9NO
product | N-(cyclobutylmethyl)-noroxymorphone | 1.43 g, 73% yield | C1CC(C1)CN2CC[C@]34[C@@H]5C(=O)CC[C@]3([C@H]2CC6=C4C(=C(C=C6)O)O5)O | C21H25NO4
